data/pmechdb/original/mc_train_fold0/raw/train.txt
CCOC(=O)C(C)(C(I)I)[C:20](=[O:21])OCC.[OH-:10].[K+]>>CCOC(=O)C(C)(C(I)I)[C:20]([OH:10])([O-:21])OCC.[K+] 10=20;20,21=21
[H:20][O:21]S(=O)(=O)[O-].C[NH+]1CCC(CC1)(C2=CC=CC=C2)C([NH2:10])(OC)OC>>[H:20][NH2+:10]C(C1(CC[NH+](CC1)C)C2=CC=CC=C2)(OC)OC.[O-:21]S(=O)(=O)[O-] 10=20;20,21=21
[H:20][N:21]=NC1CCC2(C3CC4=C5C2(C1OC5=C(C=C4)OC)CCN3CC)O.[OH-:10].[K+]>>[H:20][OH:10].CCN1CCC23C4C(CCC2(C1CC5=C3C(=C(C=C5)OC)O4)O)N=[N-:21].[K+] 10=20;20,21=21
C1C[O:10][C:20]23C1CC(C=[O+:21]2)(C4=C3C=CC=C4)O.CO>>C1C[O+:10]=[C:20]2C1CC(C3=C2C=CC=C3)(C=[O:21])O.CO 10=20;20,21=21
C[C+:20]=O.C[C:13]1=[CH:12][CH:11]=[CH:10]C=C1>>C[C+:13]1C=C[CH:10]([CH:11]=[CH:12]1)[C:20](=O)C 10,11=10,20;12,13=11,12
[H:20][O:21]C(=O)C.C1CC2(CCC1OCC3=CC=CC=C3)OCC[O:10]2.C1CCOC1.O>>[H:20][O+:10]1CCOC12CCC(CC2)OCC3=CC=CC=C3.CC(=O)[O-:21].C1CCOC1.O 10=20;20,21=21
COC1=C[CH:11]=[CH:10]O1.[N+:20](=O)=[O:21]>>COC1=C[CH+:11][CH:10](O1)[N+:20](=O)[O-:21] 10,11=10,20;20,21=21
CCCOC(=O)C(CC(C)C)[N-][N+:21]#[N:20].C1=CC=C(C=C1)[P:10](C2=CC=CC=C2)C3=CC=CC=C3.[OH3+]>>CCCOC(=O)C(CC(C)C)[N-][N:21]=[N:20][P+:10](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3.[OH3+] 10=20;20,21=21
[H:20][NH+:21](CC=C)C(C1=CC=C(C=C1)OC)[O-].C=CC[NH2:10]>>[H:20][NH2+:10]CC=C.COC1=CC=C(C=C1)C([NH:21]CC=C)[O-] 10=20;20,21=21
[CH:20]([NH3+:21])(O)[OH:10].[Cl-]>>[CH:20](=[OH+:10])O.[NH3:21].[Cl-] 10=20;20,21=21
[H:20][O:21]C(=O)C1=CC=C(C=C1)C.C[Si](C)(C)[C-:10]([Si](C)(C)C)[P+](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3>>[H:20][C:10]([Si](C)(C)C)([Si](C)(C)C)[P+](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3.CC1=CC=C(C=C1)C(=O)[O-:21] 10=20;20,21=21
CCC(C)O[Si-:10](C)(C)(C)[Cl:11]>>CCC(C)O[Si:10](C)(C)C.[Cl-:11] 10,11=11
C[O:10]C.C[Si:20](C)(C)Br>>C[O+:10](C)[Si-:20](C)(C)(C)Br 10=20,
[H:10][BH2-:11]C#N.CC[N+:21](=[C:20](C)C)CC>>[H:10][C:20](C)(C)[N:21](CC)CC.[BH2:11]C#N 10,11=10,20;20,21=21
CC1=CC=C(N1)C2=CC(=CC(=C2)C(=O)CC[C:20](=[O:21])C)C3=CC=C(N3)C.[NH3:10].CC(=O)O.C(=O)[O-]>>CC1=CC=C(N1)C2=CC(=CC(=C2)C(=O)CC[C:20](C)([NH3+:10])[O-:21])C3=CC=C(N3)C.CC(=O)O.C(=O)[O-] 10=20;20,21=21
[H:20][O:21]C(C1=CC=CS1)(C2=[N+](C(=C(S2)CCO)C)CC3=CC=CC=C3)C([CH:10]=[C:11](C4=CC=CS4)[O-:12])C5=CC6=C(C=C5)OCO6.CC[NH+](CC)CC.CC(C)O.[Cl-]>>[H:20][CH:10](C(C1=CC2=C(C=C1)OCO2)C(C3=CC=CS3)(C4=[N+](C(=C(S4)CCO)C)CC5=CC=CC=C5)[O-:21])[C:11](=[O:12])C6=CC=CS6.CC[NH+](CC)CC.CC(C)O.[Cl-] 10,11=10,20;20,21=21;12=11
[H:20][Br:21].CC1(C[O:10]1)C>>[H:20][O+:10]1CC1(C)C.[Br-:21] 10=20;20,21=21
[H:20][Br:21].[P:10](Br)(Br)Br>>[H:20][P+:10](Br)(Br)Br.[Br-:21] 10=20;20,21=21
CCCC(=[O:10])OCCC.CC(C)C[AlH:20]CC(C)C>>CCCC(=[O+:10][AlH-:20](CC(C)C)CC(C)C)OCCC 10=20,
[H:20][OH2+:21].CCNC(C)[O-:10]>>[H:20][O:10]C(C)NCC.[OH2:21] 10=20;20,21=21
C[NH+]1CCC(CC1)(C2=CC=CC=C2)[C:20](=[NH2+:21])[O:10]C.CO.[O-]S(=O)(=O)[O-]>>C[NH+]1CCC(CC1)(C2=CC=CC=C2)[C:20](=[O+:10]C)[NH2:21].CO.[O-]S(=O)(=O)[O-] 10=20;20,21=21
[H:20][O:21][C:22]1=[CH:23][C+:24](CCC1(C)C)OCC.CC[O-:10]>>[H:20][O:10]CC.CCO[C:24]1=[CH:23][C:22](=[O:21])C(CC1)(C)C 10=20;20,21=21,22;22,23=23,24
CC(C)(C)C#[N+]O[Si:20](C)(C)C.C(F)(F)(F)S(=O)(=O)[O-:10].CC[NH+](CC)CC>>CC(C)(C)C#[N+]O[Si-:20](C)(C)(C)[O:10]S(=O)(=O)C(F)(F)F.CC[NH+](CC)CC 10=20,
[H:20][CH:21]([C:22](=[O:23])OC(=O)C)OC1=CC(=C(C=C1C(=O)C)OC)C.CC(=O)[O-:10].CC(=O)O.[Na+]>>[H:20][O:10]C(=O)C.CC1=C(C=C(C(=C1)O[CH:21]=[C:22]([O-:23])OC(=O)C)C(=O)C)OC.CC(=O)O.[Na+] 10=20;22,23=23;20,21=21,22
C1CCC(CC1)[P+:20](C2CCCCC2)(C3CCCCC3)F.[OH2:10].[B-](F)(F)(F)F.C1C[N+]2(CCN1CC2)CCl>>C1CCC(CC1)[P:20](C2CCCCC2)(C3CCCCC3)([OH2+:10])F.[B-](F)(F)(F)F.C1C[N+]2(CCN1CC2)CCl 10=20,
[H:20][Cl:21].CC1=CC2=C(CC(C2(CCC1)C)[O:10][Sn-](Cl)(Cl)(Cl)Cl)C(C)C>>[H:20][O+:10](C1CC(=C2C1(CCCC(=C2)C)C)C(C)C)[Sn-](Cl)(Cl)(Cl)Cl.[Cl-:21] 10=20;20,21=21
COC1=C(C=C(C(=C1)[CH:20]([OH2+:21])[O:10]CCCO)Br)OC.CC1=CC=C(C=C1)S(=O)(=O)[O-]>>COC1=C(C=C(C(=C1)[CH:20]=[O+:10]CCCO)Br)OC.[OH2:21].CC1=CC=C(C=C1)S(=O)(=O)[O-] 10=20;20,21=21
CCC(C)[OH:10].CC(=O)O[C:20](=[O:21])C>>CCC(C)[OH+:10][C:20](C)([O-:21])OC(=O)C 10=20;20,21=21
[H:20][C:21]1(C2=C(C=CC=C2)C3=C1C=CC=C3)COC(=O)NC(C)C(=O)NC.C1CC[NH:10]CC1.CN(C)C=O>>[H:20][NH+:10]1CCCCC1.CC(C(=O)NC)NC(=O)OC[C-:21]1C2=C(C=CC=C2)C3=C1C=CC=C3.CN(C)C=O 10=20;20,21=21
C[C:11](=[CH2:10])[N:12]1CCCC1.C[C:20](=[O:21])OC(=O)C=C>>C[C:11](=[N+:12]1CCCC1)[CH2:10][C:20](C)([O-:21])OC(=O)C=C 10,11=10,20;20,21=21;12=11
CC1[C:11]([C:10]12C=CC=C[CH+:20]2)(C)C>>CC([C:10]1=[CH:20]C=CC=C1)[C+:11](C)C 10,11=10,20
C[C:11](=[C:10](CCC[CH2:20][Br:21])C(=O)C)[O-:12]>>CC(=O)[C:10]1(CCC[CH2:20]1)[C:11](=[O:12])C.[Br-:21] 10,11=10,20;20,21=21;12=11
[Li:20][O+]=C(C1CC1SC(C)(C)C)OC.[Br-:10]>>[Li-:20]([O+]=C(C1CC1SC(C)(C)C)OC)[Br:10] 10=20,
CC(C)(C)[Si:20](C)(C)C.C[O:10]C>>CC(C)(C)[Si-:20](C)(C)(C)[O+:10](C)C 10=20,
CC(C)[O:21][C:20]1(CC2C3=C(CC[N+]2=C4C1CCC4)C=C(C=C3)OC)[O-:10].C(=O)(C(F)(F)F)O.O>>CC(C)[O-:21].COC1=CC2=C(C=C1)C3C[C:20](=[O:10])C4CCCC4=[N+]3CC2.C(=O)(C(F)(F)F)O.O 10=20;20,21=21
C[C:22](=[O:23])[CH:21]=[CH2:20].C=CC[C:10]1=[C:11](CCCC1=O)[O-:12]>>C[C:22](=[CH:21][CH2:20][C:10]1(C(=O)CCC[C:11]1=[O:12])CC=C)[O-:23] 10,11=10,20;12=11;22,23=23;20,21=21,22
